2108-12-28 07:34:00 Physician Resident Progress Note
Chief Complaint: GI bleed
   24 Hour Events:
   Transferred to ICU for concern of GI bleed.
   Allergies:
   Plavix (Oral) (Clopidogrel Bisulfate)
   Rash;
   Other ICU medications:
   Morphine Sulfate - [**2108-12-28**] 05:46 AM
   Review of systems is unchanged from admission except as noted below
   Review of systems:  Chest pain, burning pressure, epigastric.  Hurts
   all the time; feels anxious.  Pt states she wants to stop all
   treatments and die naturally.  Feels
blah
.  No other specific
   complaint.
   Flowsheet Data as of  [**2108-12-28**] 07:16 AM
   Vital signs
   Hemodynamic monitoring
   Fluid balance
                                                                  24 hours
                                                               Since 12 AM
   Tmax: 37.1
C (98.7
   Tcurrent: 36.7
C (98.1
   HR: 133 (111 - 139) bpm
   BP: 99/38(71) {95/38(53) - 147/77(94)} mmHg
   RR: 13 (6 - 24) insp/min
   SpO2: 100%
   Heart rhythm: ST (Sinus Tachycardia)
             Total In:
                                                                    513 mL
                                                                  1,164 mL
   PO:
             TF:
   IVF:
                                                                    513 mL
                                                                  1,164 mL
   Blood products:
   Total out:
                                                                    220 mL
                                                                    220 mL
   Urine:
                                                                    220 mL
                                                                    220 mL
   NG:
   Stool:
   Drains:
   Balance:
                                                                    293 mL
                                                                    944 mL
   Respiratory support
   SpO2: 100%
   Physical Examination
   GEN: Thin cachetic appearing woman in no acute distress.
   HEENT: EOMI, PERRL, sclera anicteric, pale, dry MM, OP Clear
   NECK: No JVD,  no bruits, no cervical lymphadenopathy, trachea midline
   COR: RRR, no M/G/R, normal S1 S2, radial pulses +2
   PULM: Lungs CTAB, no W/R/R
   ABD: Soft, NT, ND, +BS, no HSM, no masses
   EXT: 2+ edema of LE, pitting to knees, no palpable cords
   NEURO: alert, oriented to person, place, and time.
   SKIN: No jaundice, cyanosis, or gross dermatitis. No ecchymoses.
   Labs / Radiology
   9.8 g/dL
   108 mg/dL
   2.2 mg/dL
   143 mEq/L
   4.8 mEq/L
   45 mg/dL
   113 mEq/L
   140 mEq/L
   31.1 %
   11.1 K/uL
        [image002.jpg]
                            [**2108-12-27**]  10:41 PM
                            [**2108-12-27**]  11:05 PM
                            [**2108-12-28**]  04:05 AM
                            [**2108-12-28**]  06:33 AM
   WBC
   11.1
   Hct
   34.4
   35
   31.1
   Cr
   2.3
   TropT
   0.16
   Glucose
   99
   73
   Other labs: CK / CKMB / Troponin-T:310/19/0.16, Albumin:2.8 g/dL,
   Ca++:8.2 mg/dL, Mg++:1.7 mg/dL, PO4:4.2 mg/dL
   Assessment and Plan
 GASTROINTESTINAL BLEED, UPPER (MELENA, GI BLEED, GIB)
   89 yo F with metastatic bladder cancer and new upper GI bleed.
   # GI bleed/Chest pain:  GI is aware of the patient and has requested
   RUQ U/S this am.  No outward evidence of bleeding since transfer, but
   Hct down from 34
31 this morning.  Pt reporting chest/epigastic pain
   this AM on exam; also pt remains tachycardic to 130
s.  ? if these
   symptoms are related to ongoing GI bleed vs anxiety.    Pt has not
   required transfusion this admission but has active T+S.
   - transfuse for hct <30 if actively bleeding
   - Keep NPO, NGT until  EGD performed
   - Trend hct q4 hours
   - Telemetry
   - continue IV PPI [**Hospital1 **]
   - morphine PRN
   .
   # Tachycardia:  Anxiety vs PE vs blood loss.  Pt scheduled for LENIs
   this AM to assess for DVT given LE edema.
   - repeat ECG this AM
   - LENIs this AM
   - repeat CXR
   .
   # Bladder cancer: Patient with metastatic disease currently undergoing
   palliative radiation.  Per discussion this AM, the patient does not
   wish to continue with treatment and has asked to go home and die
   naturally.  At this time, the patient may benefit from a palliative
   care consult and discussion with family regarding her goals of care.
   - treat pain prn
   - Palliative care consult.
   .
   # LE edema: [**Month (only) 11**] be dependent edema, due to DVTs, hypoalbuminemia, or
   lymphatic/vascular obstruction due to the metastatic cancer.
   - LENI
   - elevate legs
   .
   # Hyperkalemia/acute on chronic renal failure: Potassium down to 4.8.
   [**Month (only) 11**] have further obstruction of ureters and obstructive renal
   dysfunction.  More likely though to be prerenal azotemia.  Will give IV
   fluids and treat potassium with Kayexelate prn
   .
   # COPD: Patient without signs of current exacerbation.  Normal 02 sat.
   Will continue outpatient meds with albuterol prn
   .
   # Hx CVA: Not currently on aspirin
   .
   # FEN:  IVF as pt appears dry on exam, will need to monitor pulm exam
   as has bibasilar rales.
    NPO for now, but need to address nutritional status after cleared  to
   eat.
   ICU Care
   Nutrition:  NPO
   Glycemic Control:   none
   Lines:
   18 Gauge - [**2108-12-27**] 10:13 PM
   20 Gauge - [**2108-12-27**] 10:13 PM
   Prophylaxis:
   DVT: Boots
   Stress ulcer:  PPI ([**Hospital1 **])
   Code status: DNR / DNI
   Disposition:Transfer to floor/home

2108-12-28 11:06:00 Physician Attending Progress Note
Chief Complaint: GI bleed, anemia, metastatic bladder cancer, acute
   renal failure
   I saw and examined the patient, and was physically present with the ICU
   Resident for key portions of the services provided.  I agree with his /
   her note above, including assessment and plan.
   HPI:
   Hct stable overnight; slight drop this AM. No clear evidence of ongoing
   bleeding. Hemodynamically stable.
   Patient complaining of constant chest discomfort.
   Had LENI this AM; results pending.
   Creatinine down slightly from yesterday.
   24 Hour Events:
   History obtained from [**Hospital 31**] Medical records
   Allergies:
   Plavix (Oral) (Clopidogrel Bisulfate)
   Rash;
   Last dose of Antibiotics:
   Infusions:
   Pantoprazole (Protonix) - 8 mg/hour
   Other ICU medications:
   Morphine Sulfate - [**2108-12-28**] 05:46 AM
   Other medications:
   protonix, spiriva, ciproflox, heparin sc
   Changes to medical and family history:
   PMH, SH, FH and ROS are unchanged from Admission except where noted
   above and below
   Review of systems is unchanged from admission except as noted below
   Review of systems:
   Flowsheet Data as of  [**2108-12-28**] 11:06 AM
   Vital signs
   Hemodynamic monitoring
   Fluid balance
                                                                  24 hours
                                                               Since 12 AM
   Tmax: 37.1
C (98.7
   Tcurrent: 36.2
C (97.2
   HR: 129 (111 - 139) bpm
   BP: 114/46(60) {95/38(53) - 147/77(94)} mmHg
   RR: 9 (6 - 24) insp/min
   SpO2: 100%
   Heart rhythm: ST (Sinus Tachycardia)
             Total In:
                                                                    513 mL
                                                                  2,164 mL
   PO:
             TF:
   IVF:
                                                                    513 mL
                                                                  2,164 mL
   Blood products:
   Total out:
                                                                    220 mL
                                                                    220 mL
   Urine:
                                                                    220 mL
                                                                    220 mL
   NG:
   Stool:
   Drains:
   Balance:
                                                                    293 mL
                                                                  1,944 mL
   Respiratory support
   O2 Delivery Device: None
   SpO2: 100%
   ABG: 7.26///14.3/
   Physical Examination
   General Appearance: Well nourished, No acute distress, No(t) Overweight
   / Obese, Thin, Anxious, No(t) Diaphoretic
   Eyes / Conjunctiva: PERRL, No(t) Pupils dilated, No(t) Conjunctiva
   pale, No(t) Sclera edema
   Head, Ears, Nose, Throat: Normocephalic, No(t) Poor dentition, No(t)
   Endotracheal tube, NG tube, No(t) OG tube
   Cardiovascular: (PMI Normal, No(t) Hyperdynamic), (S1: Normal, No(t)
   Absent), (S2: Normal, No(t) Distant, No(t) Loud, No(t) Widely split ,
   No(t) Fixed), No(t) S3, No(t) S4, No(t) Rub, (Murmur: Systolic, No(t)
   Diastolic), II/VI systolic murmur throughout the precordium.
   Mild discomfort on palpation of sternum
   Peripheral Vascular: (Right radial pulse: Not assessed), (Left radial
   pulse: Not assessed), (Right DP pulse: Not assessed), (Left DP pulse:
   Not assessed)
   Respiratory / Chest: (Expansion: Symmetric, No(t) Paradoxical),
   (Percussion: Resonant : , No(t) Hyperresonant: , No(t) Dullness : ),
   (Breath Sounds: No(t) Clear : , Crackles : Diffuse, No(t) Bronchial: ,
   No(t) Wheezes : , No(t) Diminished: , No(t) Absent : , No(t)
   Rhonchorous: )
   Extremities: Right: 1+ edema, Left: 1+, No(t) Cyanosis, No(t) Clubbing
   Musculoskeletal: No(t) Muscle wasting, No(t) Unable to stand
   Skin:  Warm, No(t) Rash: , No(t) Jaundice
   Neurologic: Attentive, Follows simple commands, Responds to: Verbal
   stimuli, Oriented (to): person, place, time, Movement: Purposeful,
   No(t) Sedated, No(t) Paralyzed, Tone: Not assessed
   Labs / Radiology
   9.8 g/dL
   88 K/uL
   108 mg/dL
   2.2 mg/dL
   14.3 mEq/L
   4.8 mEq/L
   45 mg/dL
   113 mEq/L
   140 mEq/L
   31.1 %
   11.1 K/uL
        [image002.jpg]
                            [**2108-12-27**]  10:41 PM
                            [**2108-12-27**]  11:05 PM
                            [**2108-12-28**]  04:05 AM
                            [**2108-12-28**]  06:33 AM
   WBC
   11.1
   Hct
   34.4
   35
   31.1
   Plt
   88
   Cr
   2.3
   2.2
   TropT
   0.16
   Glucose
   99
   73
   108
   Other labs: PT / PTT / INR:15.1/34.2/1.3, CK / CKMB /
   Troponin-T:310/19/0.16, Albumin:2.8 g/dL, Ca++:7.7 mg/dL, Mg++:1.5
   mg/dL, PO4:4.4 mg/dL
   Imaging: CXR: compared to yesterday, slightly increased peribronchial
   cuffing.
   Assessment and Plan
 GASTROINTESTINAL BLEED, UPPER (MELENA, GI BLEED, GIB)
   TACHYCARDIA
   ANEMIA
   METASTATIC BLADDER CA
   Patient remains tachycardic with very dry oral mucosa. Appears
   intravascularly volume depleted. Will give additional fluids now.
   Patient to have upper endoscopy.
   Patient expressing some sentiment that she wants to go home and that
   she is tired of medical interventions. Will consult palliative care to
   discuss options with patient.
   ICU Care
   Nutrition:
   Glycemic Control:
   Lines:
   18 Gauge - [**2108-12-27**] 10:13 PM
   20 Gauge - [**2108-12-27**] 10:13 PM
   Prophylaxis:
   DVT: SQ UF Heparin
   Stress ulcer: PPI
   VAP:
   Comments: Not applicable.
   Communication: Patient discussed on interdisciplinary rounds , ICU
   Code status: DNR / DNI
   Disposition :ICU
   Total time spent: 30 minutes
   Patient is critically ill

2108-12-29 07:28:00 Physician Resident Progress Note
Chief Complaint: GIB
   24 Hour Events:
   - Pall care - continue morphine prn, consider oxycodone [**2-14**] prn when
   taking pos
   - Clinically intravscualarly dry - IVF - D5 with 3 amps bicarb
   - GI - Endoscopy, add on GGT, consider PE if persistent tachycardic
   - Endoscopy - Superficial linear ulceration in the distal 3rd of
   esophagus. No evidence of bleeding. At the GE junction, there was more
   extensive ulceration with a single 1 cm shelf-like lesion. There was a
   5 mm red spot without a vissible vessel and no active bleeding. in the
   esophagus. There was a large greyish material in fundus. The esophageal
   ulcerations could be secondary to the prednisone use. No active
   bleeding was noted to explain her current tachycardia.
   Otherwise normal EGD to second part of the duodenum
   - Transitioned from PPI gtt to ppi [**Hospital1 **]
   - Hct - 31.1 > 30.3 > 27.9 > 28
   - Positive UA - on cipro
   - Bolused 1 L IVF at AMRs --> made 30 cc urine per hour, Bolused an
   additional L IVF in afternoon -->
   - ECG - sinus tachycardic
   - LENIs - prelim read - old dvt bilaterally
   - Abd US - prelim - Widespread metastatic disease in the liver.
   - Started Heparin gtt at 1730 for suspected PE given new data from
   LENIs
   - Deferred decision to restart steroids until AM
   Allergies:
   Plavix (Oral) (Clopidogrel Bisulfate)
   Rash;
   Last dose of Antibiotics:
   Ciprofloxacin - [**2108-12-28**] 12:15 PM
   Infusions:
   Other ICU medications:
   Fentanyl - [**2108-12-28**] 11:20 AM
   Midazolam (Versed) - [**2108-12-28**] 11:35 AM
   Heparin Sodium (Prophylaxis) - [**2108-12-28**] 02:00 PM
   Pantoprazole (Protonix) - [**2108-12-28**] 07:30 PM
   Morphine Sulfate - [**2108-12-29**] 05:30 AM
   Other medications:
   Review of systems is unchanged from admission except as noted below
   Review of systems:
   Denies CP, SOB. Mild suprapubic tenderness.
   Flowsheet Data as of  [**2108-12-29**] 07:28 AM
   Vital signs
   Hemodynamic monitoring
   Fluid balance
                                                                  24 hours
                                                               Since 12 AM
   Tmax: 36.6
C (97.9
   Tcurrent: 36.6
C (97.8
   HR: 109 (101 - 134) bpm
   BP: 113/44(68) {90/36(54) - 137/56(83)} mmHg
   RR: 11 (8 - 20) insp/min
   SpO2: 88%
   Heart rhythm: ST (Sinus Tachycardia)
   Height: 64 Inch
             Total In:
                                                                  4,256 mL
                                                                    374 mL
   PO:
                                                                     60 mL
                                                                     20 mL
   TF:
   IVF:
                                                                  4,196 mL
                                                                    354 mL
   Blood products:
   Total out:
                                                                    612 mL
                                                                    200 mL
   Urine:
                                                                    612 mL
                                                                    200 mL
   NG:
   Stool:
   Drains:
   Balance:
                                                                  3,644 mL
                                                                    174 mL
   Respiratory support
   O2 Delivery Device: Nasal cannula
   SpO2: 88%
   ABG: 7.38/38/84.[**Numeric Identifier 1132**]/22/-1
   Physical Examination
   GEN: Thin cachetic appearing woman in no acute distress.
   HEENT: EOMI, PERRL, sclera anicteric, pale, dry MM, OP Clear
   NECK: No JVD,  no bruits, no cervical lymphadenopathy, trachea midline
   COR: tachy, RRR, no M/G/R, normal S1 S2, radial pulses +2
   PULM: Crackles RIGHT base, no w/r
   ABD: Soft, NT, minimal suprapubic tenderness, +BS, no HSM, no masses
   EXT: 1+ edema of LE, pitting to knees, no palpable cords, negative
   [**Last Name (un) 237**]
s, no calf tenderness
   NEURO: alert, oriented to person, place, and time.
   SKIN: No jaundice, cyanosis, or gross dermatitis. No ecchymoses.
   Labs / Radiology
   88 K/uL
   9.4 g/dL
   124 mg/dL
   2.0 mg/dL
   22 mEq/L
   3.5 mEq/L
   38 mg/dL
   111 mEq/L
   138 mEq/L
   28.0 %
   6.8 K/uL
        [image002.jpg]
                            [**2108-12-27**]  10:41 PM
                            [**2108-12-27**]  11:05 PM
                            [**2108-12-28**]  04:05 AM
                            [**2108-12-28**]  06:33 AM
                            [**2108-12-28**]  01:51 PM
                            [**2108-12-28**]  05:11 PM
                            [**2108-12-28**]  11:22 PM
                            [**2108-12-29**]  05:11 AM
                            [**2108-12-29**]  06:48 AM
   WBC
   11.1
   6.8
   Hct
   34.4
   35
   31.1
   30.3
   27.9
   28.0
   Plt
   88
   Cr
   2.3
   2.2
   2.2
   2.0
   TropT
   0.16
   TCO2
   23
   Glucose
   99
   73
   108
   221
   124
   Other labs: PT / PTT / INR:15.3/145.1/1.4, CK / CKMB /
   Troponin-T:310/19/0.16, Differential-Neuts:89.0 %, Band:1.0 %,
   Lymph:5.0 %, Mono:5.0 %, Eos:0.0 %, Lactic Acid:1.9 mmol/L, Albumin:2.8
   g/dL, Ca++:7.1 mg/dL, Mg++:2.5 mg/dL, PO4:3.5 mg/dL
   Assessment and Plan
   89 yo F with metastatic bladder cancer and new upper GI bleed.
   Endoscopy negative for active bleed. Persistently tachycardic with
   borderline hypoxemia, with evidence of old DVTs so Heparin therapy
   initiated.
   # GI bleed/Anemia:  GI is aware of the patient and has requested RUQ
   U/S this am.  No outward evidence of bleeding since transfer, but Hct
   down from 34
31 this morning.  EGD negative for acute bleed, but signs
   of ulceration in esophagus ? [**2-11**] to steroid use.  Hct stable, and pt
   has not required transfusion this admission but has active T+S. No n/v
   and no bloody bms.
   - transfuse for hct <25
   - ADAT (celiac diet)
   - Trend hct q12 hours
   - continue IV PPI [**Hospital1 **]
   - morphine PRN
   - f/u GI reccs
   .
   # Venous Thromboembolus:  Patient
s tachycardia was not responsive to
   fluids yesterday, depsite signs of hypovolemia on exam. Pt was also
   borderline hypoxemic, but she does have COPD and unknown baseline O2
   saturation. Her Modified [**Doctor Last Name 2617**] Criteria Score is 7, making her high
   probablity of PE. Unfortunately due to baseline lung disease (copd,
   mets) a v/q scan will likely not be helpful. Given renal dysfunction,
   CTA Chest unlikely to be pursued.   LENIs positive for old DVTs
   bilaterally
   - Continue Heparin with conservative PTT goal 55-70
   - Consider CT Chest when renal dysfunction improves
   - If chronic anticoagulation is pursued, would consider Lovenox given
   h/o malignancy.
   .
   # Bladder cancer: Patient with metastatic disease currently undergoing
   palliative radiation.
   - treat pain prn
   - f/u palliative care
   - readress goals of care with family
   .
   # LE edema: [**Month (only) 11**] be dependent edema, due to DVTs, hypoalbuminemia, or
   lymphatic/vascular obstruction due to the metastatic cancer.
   - elevate legs
   .
   # Hyperkalemia/acute on chronic renal failure: [**Month (only) 11**] have further
   obstruction of ureters and obstructive renal dysfunction. Pt s/p
   nephrectomy and has baseline CKD.  More likely though to be prerenal
   azotemia.  Potassium improved. Cr slight imrovement since yesterday.
   Baseline Cr about 1.6 from [**2108-12-10**].
   - Urine lytes
   - F/u abd u/s re: hydronephrosis
   - If fails to improve, consider renal u/s for hydro.
   .
   # COPD: Patient without signs of current exacerbation.  ABG wnl.  Will
   continue outpatient meds with albuterol prn.
   - Restart prednisone 15 mg po daily with plan for quick taper
   # Pulmonary edema: CXR this am concerning for worsening pulmonary edema
   after volume resuscitation yeterday
   - lasix 20 mg Iv x1 this morning
   - pm lytes
   .
   # Hx CVA: Not currently on aspirin
   .
   # FEN:  Hep gtt. ADAT (celiac diet). Replete lytes prn.
   ICU Care
   Nutrition:
   Glycemic Control:
   Lines:
   18 Gauge - [**2108-12-27**] 10:13 PM
   20 Gauge - [**2108-12-27**] 10:13 PM
   Arterial Line - [**2108-12-28**] 07:00 PM
   Prophylaxis:
   DVT: heparin
   Stress ulcer: ppi
   VAP:  not intubated
   Comments:
   Communication:  Comments:
   Code status: DNR / DNI
   Disposition:
   ------ Protected Section ------
   Aline placed overnight for lab draws and BP monitoring. Plan to pursue
   PICC access today and d/c Aline today.
   ------ Protected Section Addendum Entered By:[**Name (NI) 161**] [**Last Name (NamePattern1) 2564**], MD
   on:[**2108-12-29**] 10:00 ------

2108-12-29 09:10:00 Physician Attending Progress Note
Chief Complaint: GI bleed, anemia, metastatic bladder cancer, acute
   renal failure
   I saw and examined the patient, and was physically present with the ICU
   Resident for key portions of the services provided.  I agree with his /
   her note above, including assessment and plan.
   HPI/24 Hour Events:
 ULTRASOUND - At [**2108-12-28**] 08:03 AM - widespread met disease of the
   liver
 ENDOSCOPY - At [**2108-12-28**] 11:20 AM - distal thirs esophagus
   ulcerations, ? steroid related, converted from IV drip to [**Hospital1 **] PPI
 ARTERIAL LINE - START [**2108-12-28**] 07:00 PM
   History obtained from Patient
   Allergies:
   Plavix (Oral) (Clopidogrel Bisulfate)
   Rash;
   Last dose of Antibiotics:
   Ciprofloxacin - [**2108-12-28**] 12:15 PM
   Infusions:
   Other ICU medications:
   Fentanyl - [**2108-12-28**] 11:20 AM
   Midazolam (Versed) - [**2108-12-28**] 11:35 AM
   Heparin Sodium (Prophylaxis) - [**2108-12-28**] 02:00 PM
   Morphine Sulfate - [**2108-12-29**] 05:30 AM
   Pantoprazole (Protonix) - [**2108-12-29**] 08:24 AM
   Other medications:
   Changes to medical and family history:
   PMH, SH, FH and ROS are unchanged from Admission except where noted
   above and below
   Review of systems is unchanged from admission except as noted below
   Review of systems:
   Constitutional: Fatigue
   Flowsheet Data as of  [**2108-12-29**] 08:52 AM
   Vital signs
   Hemodynamic monitoring
   Fluid balance
                                                                  24 hours
                                                               Since 12 AM
   Tmax: 36.6
C (97.9
   Tcurrent: 36.1
C (97
   HR: 106 (101 - 134) bpm
   BP: 100/45(65) {90/36(54) - 137/56(83)} mmHg
   RR: 12 (8 - 20) insp/min
   SpO2: 88%
   Heart rhythm: ST (Sinus Tachycardia)
   Height: 64 Inch
             Total In:
                                                                  4,256 mL
                                                                    397 mL
   PO:
                                                                     60 mL
                                                                     20 mL
   TF:
   IVF:
                                                                  4,196 mL
                                                                    377 mL
   Blood products:
   Total out:
                                                                    612 mL
                                                                    244 mL
   Urine:
                                                                    612 mL
                                                                    244 mL
   NG:
   Stool:
   Drains:
   Balance:
                                                                  3,644 mL
                                                                    153 mL
   Respiratory support
   O2 Delivery Device: Nasal cannula
   SpO2: 88%
   ABG: 7.38/38/84.[**Numeric Identifier 1132**]/22/-1
   Physical Examination
   Gen: lying back in bed, mild resp distress
   Eyes / Conjunctiva: PERRL
   Head, Ears, Nose, Throat: Normocephalic
   Cardiovascular: (S1: Normal), (S2: Normal)
   Respiratory / Chest: (Breath Sounds: Crackles : r base, Diminished: )
   Abdominal: Soft NT +BS
   Skin:  warm, + edema
   Neurologic: alert responsive to questions
   Labs / Radiology
   9.4 g/dL
   88 K/uL
   124 mg/dL
   2.0 mg/dL
   22 mEq/L
   3.5 mEq/L
   38 mg/dL
   111 mEq/L
   138 mEq/L
   28.0 %
   6.8 K/uL
        [image002.jpg]
                            [**2108-12-27**]  10:41 PM
                            [**2108-12-27**]  11:05 PM
                            [**2108-12-28**]  04:05 AM
                            [**2108-12-28**]  06:33 AM
                            [**2108-12-28**]  01:51 PM
                            [**2108-12-28**]  05:11 PM
                            [**2108-12-28**]  11:22 PM
                            [**2108-12-29**]  05:11 AM
                            [**2108-12-29**]  06:48 AM
   WBC
   11.1
   6.8
   Hct
   34.4
   35
   31.1
   30.3
   27.9
   28.0
   Plt
   88
   Cr
   2.3
   2.2
   2.2
   2.0
   TropT
   0.16
   TCO2
   23
   Glucose
   99
   73
   108
   221
   124
   Other labs: PT / PTT / INR:15.3/145.1/1.4, CK / CKMB /
   Troponin-T:310/19/0.16, Differential-Neuts:89.0 %, Band:1.0 %,
   Lymph:5.0 %, Mono:5.0 %, Eos:0.0 %, Lactic Acid:1.9 mmol/L, Albumin:2.8
   g/dL, Ca++:7.1 mg/dL, Mg++:2.5 mg/dL, PO4:3.5 mg/dL
   Assessment and Plan
 DEEP VENOUS THROMBOSIS (DVT), LOWER EXTREMITY
 RENAL FAILURE, ACUTE (ACUTE RENAL FAILURE, ARF)
 GASTROINTESTINAL BLEED, UPPER (MELENA, GI BLEED, GIB)
   89 yr old with net bladder ca presents with GI bleed now with LE clots
   and started on anti coag
   1.       GI bleed: EGD with gastritis- on PPI, [**Hospital1 **] HCT, trend [**Hospital1 **], no
   indication for acute transfusion. Advance diet.
   2.       LE DVT: some old, and in setting of chest pain an d SOB, [**Doctor Last Name 2617**]
   score of 7, decision was made to empirically anti coag with low goal
   PTT but overshot this AM, will significantly readjust.  Would like to
   speak with primary Oncology team on risk benefit of systemic anti coag
   long term in light of her heavy burden of metastasis disease.
   3.       ARF: Cr trending down, but to complete work up she should get
   a renal ultrasound to make sure there is not an obstructive component
   as she has had this complication in the past.
   4.       Resp Distress: DDX has been COPD and vol overload with concern
   for PE as well. She was quite volume positive over 24 hours so goal
   will be to try to get her negative today.
   Remaining issues as per Housestaff notes
 reviewed.
   ICU Care
   Nutrition: advance diet
   Glycemic Control:
   Lines:
   18 Gauge - [**2108-12-27**] 10:13 PM
   20 Gauge - [**2108-12-27**] 10:13 PM
   Prophylaxis:
   DVT: Systemic anticoagulation: Heparin gtt
   Stress ulcer: ppi
   Communication:  with pt and son
   [**Name (NI) 129**] status: DNR / DNI
   Disposition : ICU until stable resp status and HCT
   Total time spent: 35

2108-12-30 07:05:00 Physician Resident Progress Note
Chief Complaint:
   24 Hour Events:
   On Heparin for now given concern for PE, but note that would like to
   transistion to Lovenox given cancer.
   Tachychardic 100-110 with systolic pressures in the 80's after Lasix
   20mg and so pt received  250cc NS x3 with increased SBPs to the 100's,
   but tachychardica remained.
   Allergies:
   Plavix (Oral) (Clopidogrel Bisulfate)
   Rash;
   Last dose of Antibiotics:
   Ciprofloxacin - [**2108-12-29**] 12:40 PM
   Infusions:
   Heparin Sodium - 400 units/hour
   Other ICU medications:
   Pantoprazole (Protonix) - [**2108-12-29**] 08:24 AM
   Furosemide (Lasix) - [**2108-12-29**] 09:42 AM
   Other medications:
   Review of systems is unchanged from admission except as noted below
   Review of systems:  Has pain behind right ear where o2 cannula sits,
   feels thirsty, otherwise no complaints.
   Flowsheet Data as of  [**2108-12-30**] 07:04 AM
   Vital signs
   Hemodynamic monitoring
   Fluid balance
                                                                  24 hours
                                                               Since 12 AM
   Tmax: 36.6
C (97.8
   Tcurrent: 36.4
C (97.5
   HR: 99 (99 - 120) bpm
   BP: 99/37(59) {83/29(49) - 110/45(67)} mmHg
   RR: 18 (7 - 19) insp/min
   SpO2: 95%
   Heart rhythm: ST (Sinus Tachycardia)
   Height: 64 Inch
             Total In:
                                                                  1,843 mL
                                                                     98 mL
   PO:
                                                                     70 mL
             TF:
   IVF:
                                                                  1,773 mL
                                                                     98 mL
   Blood products:
   Total out:
                                                                    724 mL
                                                                    160 mL
   Urine:
                                                                    724 mL
                                                                    160 mL
   NG:
   Stool:
   Drains:
   Balance:
                                                                  1,119 mL
                                                                    -62 mL
   Respiratory support
   O2 Delivery Device: Nasal cannula
   SpO2: 95%
   ABG: ///17/
   Physical Examination
   GEN: Thin cachetic appearing woman in no acute distress.
   HEENT: EOMI, PERRL, sclera anicteric, pale, dry MM, OP Clear
   NECK: No JVD,  no bruits, no cervical lymphadenopathy, trachea midline
   COR: tachy, regular rhythm, 2/6 SEM appreciated throughout precordium.
   normal S1 S2
   PULM: CTAB anteriorly
   ABD: Soft, NT, minimal suprapubic tenderness, +BS, no HSM, no masses
   EXT: 1+ edema of LE, pitting to knees, calves with faint bilateral
   erythema.
   NEURO: alert, oriented to person, place, and time.
   SKIN: No jaundice, cyanosis, or gross dermatitis. No ecchymoses.
   Labs / Radiology
   88 K/uL
   9.6 g/dL
   137 mg/dL
   2.1 mg/dL
   17 mEq/L
   4.1 mEq/L
   40 mg/dL
   114 mEq/L
   143 mEq/L
   29.0 %
   6.4 K/uL
        [image002.jpg]
                            [**2108-12-27**]  11:05 PM
                            [**2108-12-28**]  04:05 AM
                            [**2108-12-28**]  06:33 AM
                            [**2108-12-28**]  01:51 PM
                            [**2108-12-28**]  05:11 PM
                            [**2108-12-28**]  11:22 PM
                            [**2108-12-29**]  05:11 AM
                            [**2108-12-29**]  06:48 AM
                            [**2108-12-29**]  04:47 PM
                            [**2108-12-30**]  05:10 AM
   WBC
   11.1
   6.8
   6.4
   Hct
   35
   31.1
   30.3
   27.9
   28.0
   28.0
   29.0
   Plt
   88
   Cr
   2.3
   2.2
   2.2
   2.0
   2.1
   2.1
   TropT
   0.16
   TCO2
   23
   Glucose
   99
   73
   108
   221
   124
   135
   137
   Other labs: PT / PTT / INR:14.8/77.5/1.3, CK / CKMB /
   Troponin-T:310/19/0.16, Differential-Neuts:89.0 %, Band:1.0 %,
   Lymph:5.0 %, Mono:5.0 %, Eos:0.0 %, Lactic Acid:1.9 mmol/L, Albumin:2.8
   g/dL,
   Ca++:7.6 mg/dL, Mg++:2.2 mg/dL, PO4:4.3 mg/dL
   Assessment and Plan
   89 yo F with metastatic bladder cancer and new upper GI bleed.
   Endoscopy negative for active bleed. Persistently tachycardic with
   borderline hypoxemia, with evidence of old DVTs so Heparin therapy
   initiated.
   # GI bleed/Anemia:  Hct remains stable.  No outward evidence of
   bleeding since transfer.  EGD negative for acute bleed, but signs of
   ulceration in esophagus ? [**2-11**] to steroid use.
   - transfuse for hct <25
   - ADAT (celiac diet)
   - continue IV PPI [**Hospital1 **]
   - f/u GI recs
   .
   # Venous Thromboembolus:  Continues to be tachycardic, ? due to fluid
   status although not  responsive to fluid.  Pt continues to feel dry.
   Concern for PEs and pt on heparin ggt.   Currently no O2 requirement.
   - Continue Heparin with conservative PTT goal 55-70
   - If chronic anticoagulation is pursued, would consider Lovenox given
   h/o malignancy.
   - Consider CT Chest when renal dysfunction improves  (crea 2.1)
   .
   # LE edema: [**Month (only) 11**] be dependent edema, due to DVTs, hypoalbuminemia, or
   lymphatic/vascular obstruction due to the metastatic cancer.  Has some
   erythema bilateral shins- ? new
   - elevate legs
   - continue heparin/possible switch to lovenox.
   .
   # Bladder cancer: Patient with metastatic disease currently undergoing
   palliative radiation.
   - treat pain with morphine prn
   - f/u palliative care
   - readress goals of care with family
   .
   # Hyperkalemia/acute on chronic renal failure: No hydronephrosis on
   abdominal U/S although ? poor image quality. Pt s/p nephrectomy and has
   baseline CKD.  More likely though to be prerenal azotemia.  Potassium
   improved. Cr slight imrovement since yesterday. Baseline Cr about 1.6
   from [**2108-12-10**].
   - Urine lytes
   - F/u abd u/s re: hydronephrosis
   - If fails to improve, consider renal u/s for hydro.
   .
   # COPD: Patient without signs of current exacerbation.  ABG wnl.  Will
   continue outpatient meds with albuterol prn.
   - Restart prednisone 15 mg po daily with plan for quick taper
   # Pulmonary edema: CXR this am concerning for worsening pulmonary edema
   after volume resuscitation yeterday
   - lasix 20 mg Iv x1 this morning
   - pm lytes
   .
   # Hx CVA: Not currently on aspirin
   .
   # FEN:  Hep gtt. ADAT (celiac diet). Replete lytes prn.
   ICU Care
   Nutrition:
   Glycemic Control:
   Lines:
   18 Gauge - [**2108-12-27**] 10:13 PM
   20 Gauge - [**2108-12-27**] 10:13 PM
   Arterial Line - [**2108-12-29**] 02:21 PM
   Prophylaxis:
   DVT:
   Stress ulcer:
   VAP:
   Comments:
   Communication:  Comments:
   Code status: DNR / DNI
   Disposition:

2108-12-30 10:01:00 Physician Attending Progress Note
Chief Complaint: respiratory distress, GI bleed
   I saw and examined the patient, and was physically present with the ICU
   Resident for key portions of the services provided.  I agree with his /
   her note above, including assessment and plan.
   HPI:89 yr old woman with met bladder Ca and GI bleed but
   24 Hour Events:
 ARTERIAL LINE - STOP [**2108-12-29**] 08:00 AM
 ARTERIAL LINE - START [**2108-12-29**] 08:00 AM
 ARTERIAL LINE - START [**2108-12-29**] 02:21 PM
 ARTERIAL LINE - STOP [**2108-12-29**] 09:00 PM
   Tried IV Lasix yesterday but she dropped BP and ended up needed bolus
   IVF to recover
   For XRT this AM
   Allergies:
   Plavix (Oral) (Clopidogrel Bisulfate)
   Rash;
   Last dose of Antibiotics:
   Ciprofloxacin - [**2108-12-29**] 12:40 PM
   Infusions:
   Heparin Sodium - 400 units/hour
   Other ICU medications:
   Pantoprazole (Protonix) - [**2108-12-30**] 08:04 AM
   Other medications:
   Changes to medical and family history:
   PMH, SH, FH and ROS are unchanged from Admission except where noted
   above and below
   Review of systems is unchanged from admission except as noted below
   Review of systems:
   Flowsheet Data as of  [**2108-12-30**] 09:59 AM
   Vital signs
   Hemodynamic monitoring
   Fluid balance
                                                                  24 hours
                                                               Since 12 AM
   Tmax: 36.6
C (97.8
   Tcurrent: 36.4
C (97.5
   HR: 100 (97 - 120) bpm
   BP: 101/37(59) {83/29(49) - 110/44(67)} mmHg
   RR: 12 (7 - 19) insp/min
   SpO2: 91%
   Heart rhythm: SR (Sinus Rhythm)
   Height: 64 Inch
             Total In:
                                                                  1,843 mL
                                                                    149 mL
   PO:
                                                                     70 mL
             TF:
   IVF:
                                                                  1,773 mL
                                                                    149 mL
   Blood products:
   Total out:
                                                                    724 mL
                                                                    240 mL
   Urine:
                                                                    724 mL
                                                                    240 mL
   NG:
   Stool:
   Drains:
   Balance:
                                                                  1,119 mL
                                                                    -91 mL
   Respiratory support
   O2 Delivery Device: None
   SpO2: 91%
   ABG: ///17/
   Physical Examination
   General Appearance: Thin, Anxious
   Eyes / Conjunctiva: PERRL
   Head, Ears, Nose, Throat: Normocephalic
   Cardiovascular: (S1: Normal), (S2: Normal), tachycardic
   Respiratory / Chest: (Breath Sounds: Diminished post bases, no wheeze
   or rales
   Abdominal: Soft, Non-tender, Bowel sounds present
   Skin:  Warm
   Neurologic: Follows simple commands, Responds to: Verbal
   Labs / Radiology
   9.6 g/dL
   62 K/uL
   137 mg/dL
   2.1 mg/dL
   17 mEq/L
   4.1 mEq/L
   40 mg/dL
   114 mEq/L
   143 mEq/L
   29.0 %
   6.4 K/uL
        [image002.jpg]
                            [**2108-12-28**]  04:05 AM
                            [**2108-12-28**]  06:33 AM
                            [**2108-12-28**]  01:51 PM
                            [**2108-12-28**]  05:11 PM
                            [**2108-12-28**]  11:22 PM
                            [**2108-12-29**]  05:11 AM
                            [**2108-12-29**]  06:48 AM
                            [**2108-12-29**]  04:47 PM
                            [**2108-12-30**]  05:10 AM
                            [**2108-12-30**]  06:21 AM
   WBC
   11.1
   6.8
   6.4
   Hct
   35
   31.1
   30.3
   27.9
   28.0
   28.0
   29.0
   Plt
   88
   62
   Cr
   2.2
   2.2
   2.0
   2.1
   2.1
   TCO2
   23
   Glucose
   73
   108
   221
   124
   135
   137
   Other labs: PT / PTT / INR:14.8/77.5/1.3, CK / CKMB /
   Troponin-T:310/19/0.16, Differential-Neuts:89.0 %, Band:1.0 %,
   Lymph:5.0 %, Mono:5.0 %, Eos:0.0 %, Lactic Acid:1.9 mmol/L, Albumin:2.8
   g/dL, Ca++:7.6 mg/dL, Mg++:2.2 mg/dL, PO4:4.3 mg/dL
   Assessment and Plan
 DEEP VENOUS THROMBOSIS (DVT), LOWER EXTREMITY
 RENAL FAILURE, ACUTE (ACUTE RENAL FAILURE, ARF)
 GASTROINTESTINAL BLEED, UPPER (MELENA, GI BLEED, GIB)
   89 yr old with net bladder ca presents with GI bleed now with LE clots
   and started on anti coag
   1.       GI bleed: EGD with gastritis- on PPI, [**Hospital1 **] HCT, trend [**Hospital1 **], no
   indication for acute transfusion. Advance diet. Maintain 2 PIV at all
   times.
   2.       LE DVT and suspicion for PE (though never imaged due to ARF
   for CTA and abnl parenchyma would limit VQ) : Has tolerated IV heparin
 goal PTT 50-70. Would like to speak with primary Oncology team (NEBH)
   on risk benefit of systemic anti coag long term in light of her heavy
   burden of metastasis disease risk benefit of bleeding.
   3.       ARF: Cr trending down good, with good UOP. ABd US without
   hydro.
   4.       Thrombocytopenia: trying to get OSH records of baseline
   platelets but were low even before heparin was started
 repeat yellow
   top
 of 50% decline from admit send HIT and convert to Argatroban
   though this is not without risk
   5.       Resp Distress: improving, now on 0-2liters nasal cannula. DDX
   has been COPD and vol overload with concern for PE as well. We have hit
   max diuresis and will now run even and Rx for COPD and PE.
   Remaining issues as per Housestaff notes
 reviewed.
   ICU Care
   Nutrition: renal diet
   Glycemic Control:
   Lines:
   18 Gauge - [**2108-12-27**] 10:13 PM
   20 Gauge - [**2108-12-27**] 10:13 PM
   Arterial Line - [**2108-12-29**] 02:21 PM
   Prophylaxis:
   DVT: on sys anticoag
   Stress ulcer: ppi
   Communication:  try to reach OSH
   Code status: DNR / DNI
   Disposition: call out if platelets stable